US07186716B2
To a solution of 1H-pyrrole-2-carboxylic acid (1 g, 9 mmol) (Aldrich, Milwaukee, Wis.) in DCM (15 mL) was added oxalyl chloride (1.1 mL) and DMF (3 drops). The mixture was stirred at room temperature resulting in 1H-pyrrole-2-carbonyl chloride. Methylamine (30 mmol) was then added to the acid chloride and the mixture was stirred at room temperature. The reaction was diluted with ethyl acetate, washed with brine (2×), NaHCO3, dried and concentrated to give 1H-pyrrole-2-carboxylic acid methylamide.

reactant | 1H-pyrrole-2-carboxylic acid | 9 mmol, 1 g | N1C(=CC=C1)C(=O)O | C5H5NO2
reactant | oxalyl chloride | 1.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Methylamine | 30 mmol | CN | CH5N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | 1H-pyrrole-2-carbonyl chloride | N1C(=CC=C1)C(=O)Cl | C5H4ClNO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1H-pyrrole-2-carboxylic acid methylamide | CNC(=O)C=1NC=CC1 | C6H8N2O
